US04496580
The m- or p-hydroxyphenyl alkanol can also be prepared using conventional techniques. For example, a m- or p-methoxyphenylbutyric acid can be reacted at reflux temperature with hydrogen bromide to form a m or p-hydroxyphenylbutyric acid. This acid can then be reacted with borane in tetrahydrofuran to form m- or p-hydroxyphenylbutanol. This latter compound is reported in JACS, 84, 788 (1962).

reactant | p-methoxyphenylbutyric acid | COC1=CC=C(C=C1)C(C(=O)O)CC | C11H14O3
reactant | hydrogen bromide | Br | BrH
product | p-hydroxyphenylbutyric acid | OC1=CC=C(C=C1)C(C(=O)O)CC | C10H12O3
